US05116862
A mixture of hex-5-ynoic acid (1 g) and thionyl chloride (1.95 ml) in benzene (25 ml) was heated at reflux for 2.5 hours. The resulting solution was cooled and then evaporated in vacuo. The acid chloride thus obtained was taken up in dry diethyl ether (5 ml) and added, dropwise, to a stirred solution of 3-(1-hydroxy-2,2,2-trifluoroethyl)-3-n-propyloxetane (1.77 g) (European Patent Application No. 211598) and pyridine (0.8 ml) in ether (20 ml). The reaction mixture was allowed to stir at room temperature overnight. After washing with water, dilute hydrochloric acid, saturated sodium bicarbonate solution and brine, the organic phase was dried over anhydrous magnesium and then evaporated in vacuo. The residue was purified by chromatography on silica, pre-eluted with hexane containing 1% triethylamine. Gradient elution with hexane/ether mixtures gave 2,2,2-trifluoro-1-(3-propyloxetan-3-yl)ethyl hex-5-ynoate (1.2 g) as a colourless oil.

reactant | 3-(1-hydroxy-2,2,2-trifluoroethyl)-3-n-propyloxetane | 1.77 g | OC(C(F)(F)F)C1(COC1)CCC | C8H13F3O2
reactant | pyridine | 0.8 ml | N1=CC=CC=C1 | C5H5N
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
reactant | ether | 20 ml | CCOCC | C4H10O
product | 2,2,2-trifluoro-1-(3-propyloxetan-3-yl)ethyl hex-5-ynoate | 1.2 g | C(CCCC#C)(=O)OC(C(F)(F)F)C1(COC1)CCC | C14H19F3O3
